US04328380
Preparation of 3-(p-tert.-butyl-o-nitro-phenyl)-2-methyl-propyl chloride
440 parts by weight of nitrating acid, consisting of 200 parts by weight of concentrated nitric acid and 240 parts by weight of concentrated sulfuric acid, are added dropwise to 448 parts by weight of 3-(p-tert.-butyl-phenyl)-2-methyl-propyl chloride, whilst cooling with ice. After stirring has been continued for 3 hours at room temperature, the crude product is poured onto ice and extracted with diethyl ether, the extract is washed with water, with aqueous NaHCO3 solution and again with water and is dried over Na2SO4, the solvent is evaporated and the residue is distilled.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 3-(p-tert.-butyl-phenyl)-2-methyl-propyl chloride | C(C)(C)(C)C1=CC=C(C=C1)CC(CCl)C | C14H21Cl
product | 3-(p-tert.-butyl-o-nitro-phenyl)-2-methyl-propyl chloride | C(C)(C)(C)C1=CC(=C(C=C1)CC(CCl)C)[N+](=O)[O-] | C14H20ClNO2
